US09062050B2
Step 6: 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine
Dissolve N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-pyridine-2,3,6-triamine dihydrochloride in acetic acid (5 mL) and trimethyl orthoformate (0.68 mL, 6.20 mmol). Stir under nitrogen for 30 minutes. Concentrate in vacuo and purify by reverse phase chromatography, eluting with a gradient of 0.03% aqueous hydrochloric acid in acetonitrile to give the racemate of the title compound (0.124 g, 19%, 2 steps). MS (ES) m/z=349 [M+1]. Separate the racemate with chiral chromatography conditions to give the title compound: (70 mg, 11%. Enantiomer 1 (first eluent at 3.7 min)>99% ee, 100% MeOH, 0.2% DMEA, 1.0 mL/min, 4.6×150 mm, CHIRALPAK® AD-H).

reactant | N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-pyridine-2,3,6-triamine dihydrochloride | Cl.Cl.FC1=CC=C2CCC(C2=C1)NC1=NC(=CC=C1N)NC=1NN=C(C1)C
reactant | trimethyl orthoformate | 6.20 mmol, 0.68 mL | C(OC)(OC)OC | C4H10O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine | 0.124 g, 19% | FC1=CC=C2CC[C@H](C2=C1)N1C=NC=2C1=NC(=CC2)NC2=CC(=NN2)C | C19H17FN6
